US04801616
[4-(Acetyloxy)-2-hydroxy-3-propylphenyl][2(acetyloxy)phenyl]methanone
Five grams of (2,4-dihydroxy-3-propylphenyl)- (2-hydroxyphenyl)methanone, 5.63 ml of triethylamine, and approximately 50 mg of dimethylaminopyridine were dissolved in 50 ml of diethyl ether at 0° C. Acetic anhydride (3.8 ml) was added dropwise. After stirring for 1 hour, the reaction mixture was partitioned between diethyl ether and water. The organic layer was separated, washed with 1N hydrochloric acid, a saturated solution of sodium bicarbonate, and a saturated solution of sodium chloride, dried over magnesium sulfate, and concentrated in vacuo. Purification by high pressure liquid chromatography over silica gel eluting with a 10-25% ethyl acetate in hexane gradient and concentration of the appropriate fractions provided 2.6 g of the desired title product as an oil.

reactant | (2,4-dihydroxy-3-propylphenyl)- (2-hydroxyphenyl)methanone | Five grams | OC1=C(C=CC(=C1CCC)O)C(=O)C1=C(C=CC=C1)O | C16H16O4
reactant | triethylamine | 5.63 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | approximately 50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Acetic anhydride | 3.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | [4-(Acetyloxy)-2-hydroxy-3-propylphenyl][2(acetyloxy)phenyl]methanone | 2.6 g | C(C)(=O)OC1=C(C(=C(C=C1)C(=O)C1=C(C=CC=C1)OC(C)=O)O)CCC | C20H20O6
